US06878727B2
Step 4: 6-cyclopentyl-6-[(4methoxyphenyl)ethynyl]dihydro-2H-pyran-2,4(3H)-dione
A solution of 6-[2-cyclopentyl-2-hydroxy-4-(4-methoxy-phenyl)-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one (55 mg, 0.1485 mmol), 1NaOH n(150 μL, 0.1485 mmol), and MeOH (1.5 mL), was stirred at room temperature for 2 hours, at which time HPLC indicated that all starting material had been consumed. The reaction was quenched with 0.5 N citric acid, and extracted with ethylacetate. The organic layer was dried with MgSO4, concentrated and purified by preparative HPLC, giving 13 mg of the product (24% yield). 1H NMR (CDCl3): δ 1.73 (m, 4H), 2.23 (pentet, 1H, J=8.1 Hz), 2.85 (d, 1H, J=16.3 Hz), 2.95 (d, 1H, J=16.5 Hz), 3.45 (d, 1H, J=21.5 Hz), 3.85 (s, 3H), 3.98 (d, 1H, J=22.0 Hz), 6.84 (d, 2H, J=8.7 Hz), 7.32 (d, 2H, J=8.1 Hz); ESIMS (M+Na+): 335.1.

reactant | 6-[2-cyclopentyl-2-hydroxy-4-(4-methoxy-phenyl)-but-3-ynyl]-2,2-dimethyl-[1,3]dioxin-4-one | 0.1485 mmol, 55 mg | C1(CCCC1)C(CC1=CC(OC(O1)(C)C)=O)(C#CC1=CC=C(C=C1)OC)O | C22H26O5
solvent | MeOH | 1.5 mL | CO | CH4O
product | 6-cyclopentyl-6-[(4methoxyphenyl)ethynyl]dihydro-2H-pyran-2,4(3H)-dione | 13 mg, 24% yield | C1(CCCC1)C1(CC(CC(O1)=O)=O)C#CC1=CC=C(C=C1)OC | C19H20O4
